US07405231B2
vii) 4-[4-(4-{2-[(E)-2-(-4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1-trityl-1H-[1,2,3]triazole
8.1 mg (0.20 mmol) 95% sodium hydride were given at 0° C. to a solution of 90 mg (0.20 mmol) 4-[4-(1-trityl-1H-[1,2,3]triazol-4-yl)-butyl]-phenol in 3.0 ml N,N-dimethylformamide and stirred for 15 min. 66 mg (0.20 mmol) 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole were added and stirring continued at 25° C. for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The organic phase was dried over sodium sulphate and the solvents distilled off in vacuo. Yield 146 mg.

reactant | sodium hydride | 0.20 mmol, 8.1 mg | [H-].[Na+]
reactant | 4-[4-(1-trityl-1H-[1,2,3]triazol-4-yl)-butyl]-phenol | 0.20 mmol, 90 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)N1N=NC(=C1)CCCCC1=CC=C(C=C1)O | C31H29N3O
reactant | 4-chloromethyl-2-[2-(4-trifluoromethanesulfinyl-phenyl)-vinyl]-oxazole | 0.20 mmol, 66 mg | ClCC=1N=C(OC1)C=CC1=CC=C(C=C1)S(=O)C(F)(F)F | C13H9ClF3NO2S
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 4-[4-(4-{2-[(E)-2-(-4-Trifluoromethanesulfinyl-phenyl)-vinyl]-oxazol-4-ylmethoxy}-phenyl)-butyl]-1-trityl-1H-[1,2,3]triazole | FC(S(=O)C1=CC=C(C=C1)/C=C/C=1OC=C(N1)COC1=CC=C(C=C1)CCCCC=1N=NN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(F)F | C44H37F3N4O3S
